US08956552B2
Under a nitrogen atmosphere, 2.4 g of 4-(trans-4-propylcyclohexyl)-2-cyclohexene-1-ol (r-1) was dissolved into 50 mL of THF, 0.52 g of 60% sodium hydride was added under ice-cooling, and the resultant mixture was stirred at room temperature for 1 hour. Thereto, 2.3 g of potassium iodide and 3.2 g of (trans-4-pentylcyclohexyl)bromomethane (r-2) dissolved in 30 mL of THF were added, and the resultant mixture was stirred under heating reflux for 8 hours. The resultant reaction mixture was poured into water, and subjected to extraction with toluene. Combined organic layers were washed with saturated brine, and then dried over anhydrous magnesium sulfate. A solvent was evaporated under reduced pressure, and a residue was purified by silica gel column chromatography (eluate:heptane:toluene=1:1 (in a volume ratio)), and further purified by recrystallization from a mixed solvent of heptane:Solmix A-11 (registered tradename; Japan Alcohol Trading Co., Ltd.)=1:2 (in a volume ratio), and thus 0.15 g of 6-(trans-4-propylcyclohexyl)-3-(trans-4-pentylcyclohexyl)methoxy cyclohexene [compound (1-3-1-18) was obtained.

reactant | 4-(trans-4-propylcyclohexyl)-2-cyclohexene-1-ol | 2.4 g | C(CC)[C@@H]1CC[C@H](CC1)C1C=CC(CC1)O | C15H26O
reactant | sodium hydride | 0.52 g | [H-].[Na+]
reactant | potassium iodide | 2.3 g | [I-].[K+]
reactant | (trans-4-pentylcyclohexyl)bromomethane | 3.2 g | C(CCCC)[C@@H]1CC[C@H](CC1)CBr | C12H23Br
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | 6-(trans-4-propylcyclohexyl)-3-(trans-4-pentylcyclohexyl)methoxy cyclohexene | 0.15 g | C(CC)[C@@H]1CC[C@H](CC1)C1CCC(C=C1)OC[C@@H]1CC[C@H](CC1)CCCCC | C27H48O
